US06667322B2
To a solution of [(2R)-8-methoxy-2H-chromen-2-yl]methyl 4-methyl-benzenesulfonate (0.350 g, 1.01 mmol) in methyl sulfoxide (20 mL) was added 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.655 g, 3.03 mmol) and the reaction mixture was heated to 80° C. for 12 h. The reaction mixture was allowed to cool to room temperature and was diluted with ethyl acetate (200 mL), washed with water (2×100 mL), aqueous sodium chloride (100 mL), dried (magnesium sulfate) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, methanol:ethyl acetate 1:9) followed by recrystallization from ethanol provided 0.240 g (61%, >97% ee) of 5-fluoro-3-(1-{[(2R)-8-methoxy-2H-chromen-2-yl]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole as a yellow solid. [α]D25=−2.14 (c 10.27 in chloroform, >97% ee); Rf=0.49 (silica, methanol:ethyl acetate 1:9); mp 189-191° C. dec; Anal. Calcd. for C24H23FN2O2.0.3 H2O: C, 73.15; H, 5.99; N, 7.11. Found: C, 73.19; H, 6.03; N, 7.08.

reactant | [(2R)-8-methoxy-2H-chromen-2-yl]methyl 4-methyl-benzenesulfonate | 1.01 mmol, 0.350 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2C=C1)OC | C18H18O5S
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 3.03 mmol, 0.655 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
solvent | methyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-3-(1-{[(2R)-8-methoxy-2H-chromen-2-yl]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 0.240 g, 61% | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C[C@@H]1OC2=C(C=CC=C2C=C1)OC | C24H23FN2O2
